US06180622B2
b) (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[6-methoxymethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylate (internal salt)
Anhydrous THF (0.5 ml) and 0.5 ml of dry ethanol are added to 47.9 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-methoxymethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide. Triphenylphosphine (5.8 mg), 0.012 ml of morpholine, and 3.2 mg of tetrakis(triphenylphosphine)palladium(0) are successively added in an argon atmosphere at room temperature for 75 min. THF (10 ml) is added thereto, and the resultant precipitate is further washed twice with 3 ml of THF and dried in vacuo to give a yellow powder which is then purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) to give 2.2 mg of the title compound as a colorless flocculent material.

reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-methoxymethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 47.9 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2C)COC)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C
reactant | Triphenylphosphine | 5.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | morpholine | 0.012 ml | N1CCOCC1 | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[6-methoxymethyl-5-methylimidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylate | 2.2 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)CC2=C[N+]=3C(S2)=CN(C3C)COC)C(=O)[O-])C1=O | C23H30N4O5S2
